US06949542B2
(5-Ethoxy-2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (224 mg, 0.70 mmol) and 3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester (Example K38) (256 mg, 0.70 mmol) according to the general procedure M. Obtained as an off-white solid (320 mg, 75%).

reactant | [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.70 mmol, 224 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionic acid tert-butyl ester | 0.70 mmol, 256 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)C(F)(F)F)=O)=O | C19H18F3NO3
product | (5-Ethoxy-2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)C(F)(F)F)=O)=O)=O | C29H27F6N3O5
